US08980911B2
A stirred suspension of benzyl 3-chloro-1H-pyrrolo[3,2-c]pyridine-1-carboxylate (2.4 g, 8.37 mmol) in dichloromethane (20 mL) was treated portion wise with 3-chloroperoxybenzoic acid (2.165 g, 12.55 mmol) followed by stirring at room temperature for about 1.5 hours. The reaction was neutralized with saturated aq. sodium bicarbonate solution. The organic layer was separated, dried over anhydrous sodium sulfate and concentrated to afford benzyl 3-chloro-1H-pyrrolo[3,2-c]pyridine-1-carboxylate 5-oxide (2.45 g, 99%).

reactant | benzyl 3-chloro-1H-pyrrolo[3,2-c]pyridine-1-carboxylate | 8.37 mmol, 2.4 g | ClC1=CN(C2=C1C=NC=C2)C(=O)OCC2=CC=CC=C2 | C15H11ClN2O2
reactant | 3-chloroperoxybenzoic acid | 12.55 mmol, 2.165 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | benzyl 3-chloro-1H-pyrrolo[3,2-c]pyridine-1-carboxylate 5-oxide | 2.45 g, 99% | ClC1=CN(C2=C1C=[N+](C=C2)[O-])C(=O)OCC2=CC=CC=C2 | C15H11ClN2O3
